US05932586
1-Cyclohexene-2-(4'-methylsulfonylphenyl)benzene
2-(4'-methylthiophenyl)-1-(1-hydroxy-1-cyclohexyl)-benzene: 2-Bromo-(4'-methylthiophenyl) benzene (3.02 g, 10.8 mmol) was dissolved in tetrahydrofuran (35 ml), cooled to -78° C. and n-butyllithium (4.5 ml, 11.3 mmol) was slowly added. The pale yellow mixture was stirred at -78° C. for 2 h followed by addition of cyclohexanone (1.3 ml, 12.9 mmol). The reaction was stirred for 18 h and allowed to warm to room temperature. The reaction was diluted with water and ethyl acetate. The aqueous layer was extacted with ethyl acetate and the combined organic layers were dried, filtered and concentrated. Purification by chromatography on silica gel using 6:1 hexane/ethyl acetate as eluant afforded the desired product (2.51 g., 77%) as a clear oil; 1H NMR (CDCl3) d 7.58 (d, 1H), 7.36 (m, 2H), 7.27 (m, 4H), 7.04 (dd, 1H), 2.53 (s, 3H), 2.34 (t, 1H), 1.83-1.10 (m, 10H), Mass spectrum (high resolution, EI/DEP) calc'd M+ 298.139137; found M+ 298.138665.

reactant | 2-(4'-methylthiophenyl)-1-(1-hydroxy-1-cyclohexyl)-benzene | CSC1=CC=C(C=C1)C1=C(C=CC=C1)C1(CCCCC1)O | C19H22OS
reactant | 2-Bromo-(4'-methylthiophenyl) benzene | 10.8 mmol, 3.02 g | BrC1=C(C=CC=C1)C=1SC=C(C1)C | C11H9BrS
reactant | n-butyllithium | 11.3 mmol, 4.5 ml | C(CCC)[Li]
reactant | cyclohexanone | 12.9 mmol, 1.3 ml | C1(CCCCC1)=O | C6H10O
reactant | water | O | H2O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Cyclohexene 2-(4'-methylsulfonylphenyl)benzene | 2.51 g, 77% | C1=CCCCC1.CS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | InChI=1S/C13H12O2S.C6H10/c1-16(14,15)13-9-7-12(8-10-13)11-5-3-2-4-6-11;1-2-4-6-5-3-1/h2-10H,1H3;1-2H,3-6H2
